### PR TITLE
[Merged by Bors] - chore(NumberTheory/Padics/Complex): remove an erw

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites `norm_eq_norm'` to expand `Valuation.restrict_def`, `embedding_restrict₀`, and `PadicAlgCl.valuation_coe` inside `simp only`

Extracted from #38415

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
LGTM, and removing `erw`'s is definitely a good thing

maintainer merge

File: Mathlib/NumberTheory/Padics/Complex.lean [hunk 1]
```diff
@@ -210,9 +210,8 @@ theorem norm_eq_norm' : (‖·‖ : ℂ_[p] → ℝ) = Valued.v.norm := by
     letI := S.toNonUnitalSeminormedRing.toSeminormedAddCommGroup.toSeminormedAddGroup
     exact @uniformContinuous_norm ℂ_[p] this
   · intro x
-    simp only [Valued.v.norm_def, RankOne.hom_eq_embedding]
-    erw [embedding_restrict (PadicComplex.valued p).v x, valuation_extends]
-    exact (PadicAlgCl.valuation_coe p x).symm
+    simp only [Valued.v.norm_def, RankOne.hom_eq_embedding, Valuation.restrict_def,
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/Complex.lean]: Can this `simp` be unsqueezed?

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
